* Copyright © Analog Devices, Inc. 2019.  All rights reserved.
*
.subckt ADP7102 1 2 3 4 5 6
M1 P N005 1 1 P temp=27
A3 3 6 6 6 6 6 N009 6 SCHMITT Vt=1.175 Vh=45m Trise=160u Tfall=10u
C3 3 6 3p Rpar=10Meg
C4 1 6 10p
A4 6 N008 6 N009 6 6 EN 6 AND Tau=1u
D2 N011 N012 1µA
A7 6 N011 N015 N015 N015 N015 6 N015 VARISTOR table(0 0 1.22 {Vref})
R6 N012 N015 100K
G1 6 N007 N002 N014 10µ
C7 N007 6 6p noiseless Rser=100k Rpar=100k
C8 2 6 1p Rpar=100Meg
C5 N011 6 474p
A2 1 6 6 6 6 6 N008 6 SCHMITT Vt=2.575 Vh=.125
S4 6 N011 6 EN S
G3 1 6 1 6 table(5,18u,20,40u)
C11 5 6 10p
D3 N010 N005 X
C9 N010 1 100p Rpar=1K
D5 P 5 15mV
G2 N010 1 P 5 table(15.12m,1.196m, 16.79mm,1.2m,17.83m, 1.216m)
M3 6 N005 1 1 P2
B3 5 6 I=V(EN,6)*table(V(P,5) ,15.2m,400u,15.7m,450u, 17.44m,650u,18.43m,700u)
M2 N001 N005 1 1 P m=20m temp=27
R5 N001 5 10
C2 N002 N001 25p
R7 2 N002 25K noiseless
R4 N014 N015 500K noiseless
C12 N014 6 250p
M4 N005 N005 P001 P001 P m=7.143m temp=27
R8 P001 1 500K noiseless
A5 N006 N007 1 1 1 1 N005 1 OTA G=600u linear Iout=60u en=3u/freq**.44 Ref=-1.5m Rout=1Meg Vhigh=0 Vlow=-1.22
S1 1 N005 6 EN S
C10 1 N006 10f
R2 6 N006 500K noiseless
B1 6 N012 I=1m*min(V(1,6),min({Vref+2.1},9.5)) Rpar=1k Cpar=3p
D4 6 5 S
S2 6 4 N019 6 PG
A1 N018 6 6 6 6 N019 6 6 SCHMITT Vt=.9215 Vh=13.5m Trise=50n
C13 4 6 2p Rpar=1G
B2 6 N018 I=IF(V(P,5)>19.2m,0,1m*V(2,6)/Vref) Rpar=1K Cpar=10p NoJacob
S3 N005 5 5 1 Rev
B4 1 6 I=table(V(1,5),-55m,.3u, 0, 0)
.model P VDMOS(mtriode=.6 Kp=15 Ksubthres=10m Lambda=.3 Vto=-1 Is=0 pchan)
.model P2 VDMOS( mtriode=.35 Kp=11 Ksubthres=10m Vto=-1.21 Is=0 pchan)
.model S SW(Ron=1 Roff=1G Vt=-.5 Vh=-.4)
.model S D(Ron=10 Roff=1G epsilon=1)
.model 1µA D(Ron=400 Roff=400 RevIlimit=1u Vrev=0)
.model 15mV D(Ron=1m Roff=1K Vfwd=15m epsilon=20m)
.model X D(Ron=1K Roff=1T epsilon=10m)
.model PG SW(Ron=100 Roff=1G Vt=.75 Vh=-.23)
.model Rev SW(Ron=1 Roff=1T Vt=50m vh=-5m noiseless)
.ends ADP7102
*
.subckt ADP7104 1 2 3 4 5 6
M1 P N005 1 1 P temp=27
A3 3 6 6 6 6 6 N009 6 SCHMITT Vt=1.175 Vh=45m Trise=160u Tfall=10u
C3 3 6 3p Rpar=10Meg
C4 1 6 10p
A4 6 N008 6 N009 6 6 EN 6 AND Tau=1u
D2 N011 N012 1µA
A7 6 N011 N015 N015 N015 N015 6 N015 VARISTOR table(0 0 1.22 {Vref})
R6 N012 N015 100K
G1 6 N007 N002 N014 10µ
C7 N007 6 6p noiseless Rser=100k Rpar=100k
C8 2 6 1p Rpar=100Meg
C5 N011 6 758p
A2 1 6 6 6 6 6 N008 6 SCHMITT Vt=2.575 Vh=.125
S4 6 N011 6 EN S
G3 1 6 1 6 table(5,18u,20,40u)
C11 5 6 10p
D3 N010 N005 X
C9 N010 1 100p Rpar=1K
D5 P 5 15mV m=2.5
G2 N010 1 P 5 table(15.12m,1.196m,15.41mm, 1.198m, 16.79mm,1.2m,17.83m, 1.216m)
M3 6 N005 1 1 P2
M2 N001 N005 1 1 P m=20m temp=27
R5 N001 P 10
C2 N002 N001 25p
R7 2 N002 25K noiseless
R4 N014 N015 500K noiseless
C12 N014 6 250p
M4 N005 N005 P001 P001 P m=7.143m temp=27
R8 P001 1 500K noiseless
A5 N006 N007 1 1 1 1 N005 1 OTA G=600u Iout=60u en=3u/freq**.44 Ref=-1.5m Rout=1Meg Vhigh=0 Vlow=-1.22
S1 1 N005 6 EN S
C10 1 N006 10f
R2 6 N006 500K noiseless
B1 6 N012 I=1m*min(V(1,6),min({Vref+2.1},9.5)) Rpar=1k Cpar=3p
D4 6 5 S
S2 6 4 N019 6 PG
A1 N018 6 6 6 6 N019 6 6 SCHMITT Vt=.9215 Vh=13.5m Trise=50n
C13 4 6 2p Rpar=1G
B2 6 N018 I=IF(V(P,5)>18.6m,0,1m*V(2,6)/{Vref}) Rpar=1K Cpar=10p NoJacob
S3 N005 5 5 1 Rev
B4 1 6 I=table(V(1,5),-55m,.3u, 0, 0)
B3 1 6 I=V(EN,6)*table(V(P,5) ,15.1m,400u, 15.4m,450u,17.19m,700u,17.83,800u)
.model P VDMOS(mtriode=.35 Kp=25 Ksubthres=10m Lambda=.3 Vto=-1 Is=0 Rd=30m pchan)
.model P2 VDMOS( mtriode=.35 Kp=11 Ksubthres=10m Vto=-1.21 Is=0 pchan)
.model S SW(Ron=1 Roff=1G Vt=-.5 Vh=-.4)
.model S D(Ron=10 Roff=1G epsilon=1)
.model 1µA D(Ron=400 Roff=400 RevIlimit=1u Vrev=0)
.model 15mV D(Ron=1m Roff=1K Vfwd=15m epsilon=20m)
.model X D(Ron=1K Roff=1T epsilon=10m)
.model PG SW(Ron=100 Roff=1G Vt=.75 Vh=-.23)
.model Rev SW(Ron=1 Roff=1T Vt=50m vh=-5m noiseless)
.ends ADP7104
*
.subckt ADP7105 1 2 3 4 5 6 7
M1 P N005 1 1 P temp=27
A3 3 6 6 6 6 6 N009 6 SCHMITT Vt=1.175 Vh=45m Trise=160u Tfall=10u
C3 3 6 3p Rpar=20Meg
C4 1 6 10p
A4 6 N008 6 N009 6 6 EN 6 AND Tau=1u
D2 4 N012 1µA
A7 6 4 N015 N015 N015 N015 6 N015 VARISTOR table(0 0 1.22 {Vref})
R6 N012 N015 100K
G1 6 N007 N002 N014 10µ
C7 N007 6 6p noiseless Rser=100k Rpar=100k
C8 2 6 1p Rpar=100Meg
A2 1 6 6 6 6 6 N008 6 SCHMITT Vt=2.575 Vh=.125
S4 6 4 6 EN S
G3 1 6 1 6 table(5,18u,20,40u)
C11 5 6 10p
D3 N010 N005 X
C9 N010 1 100p Rpar=1K
D5 P 5 15mV m=2.5
G2 N010 1 P 5 table(15.12m,1.196m,15.41mm, 1.198m, 16.79mm,1.2m,17.83m, 1.216m)
M3 6 N005 1 1 P2
B3 5 6 I=V(EN,6)*table(V(P,5) ,15.1m,400u, 15.4m,450u,17.19m,700u,17.83,800u)
M2 N001 N005 1 1 P m=20m temp=27
R5 N001 P 10
C2 N002 N001 25p
R7 2 N002 25K noiseless
R4 N014 N015 500K noiseless
C12 N014 6 250p
M4 N005 N005 P001 P001 P m=7.143m temp=27
R8 P001 1 500K noiseless
A5 N006 N007 1 1 1 1 N005 1 OTA G=600u Iout=60u en=3u/freq**.44 Ref=-1.5m Rout=1Meg Vhigh=0 Vlow=-1.22
S1 1 N005 6 EN S
C10 1 N006 10f
R2 6 N006 500K noiseless
B1 6 N012 I=1m*min(V(1,6),min({Vref+2.1},5.5)) Rpar=1k Cpar=3p
D4 6 5 S
S2 6 7 N019 6 PG
A1 N018 6 6 6 6 N019 6 6 SCHMITT Vt=.9215 Vh=13.5m Trise=50n
C13 7 6 2p Rpar=1G
B2 6 N018 I=IF(V(P,5)>18.6m,0,1m*V(2,6)/Vref) Rpar=1K Cpar=10p NoJacob
S3 N005 5 5 1 Rev
B4 1 6 I=table(V(1,5),-55m,.3u, 0, 0)
C6 4 6 10p
.model P VDMOS(mtriode=.35 Kp=25 Ksubthres=10m Lambda=.3 Vto=-1 Is=0 Rd=30m pchan)
.model P2 VDMOS( mtriode=.35 Kp=11 Ksubthres=10m Vto=-1.21 Is=0 pchan)
.model S SW(Ron=1 Roff=1G Vt=-.5 Vh=-.4)
.model S D(Ron=10 Roff=1G epsilon=1)
.model 1µA D(Ron=400 Roff=400 RevIlimit=1u Vrev=0)
.model 15mV D(Ron=1m Roff=1K Vfwd=15m epsilon=20m)
.model X D(Ron=1K Roff=1T epsilon=10m)
.model PG SW(Ron=100 Roff=1G Vt=.75 Vh=-.23)
.model Rev SW(Ron=1 Roff=1T Vt=50m vh=-5m noiseless)
.ends ADP7105
*
.subckt ADP7118 1 2 3 4 5 6
M1 P N005 1 1 P temp=27
A3 3 6 6 6 6 6 N009 6 SCHMITT Vt=1.17 Vh=50m Trise=160u Tfall=10u
C3 3 6 3p Rpar=20Meg
C4 1 6 10p
A4 6 N008 6 N009 6 6 EN 6 AND Tau=1u
D2 4 N012 1µA
A7 6 4 N014 N014 N014 N014 6 N014 VARISTOR table(0 0 .6 {Vref})
R6 N012 N014 100K
G1 6 N007 N002 N013 10µ
C7 N007 6 6p noiseless Rser=100k Rpar=100k Cpar=1p
C8 2 6 1f noiseless Rpar=120Meg
C5 4 6 10p
A2 1 6 6 6 6 6 N008 6 SCHMITT Vt=2.315 Vh=.115
S4 6 4 6 EN S
G3 1 6 1 6 table(5,1.8u,20,3u)
C11 5 6 10p
D3 N010 N005 X
C9 N010 1 100p Rpar=1K
D5 P 5 20mV
G2 N010 1 P 5 table(20.5m,1.19m,20.7m, 1.20m, 21.3m,1.206m, 22.5m,1.209m, 22.8m, 1.21m)
M3 6 N005 1 1 P2
B3 5 6 I=V(EN,6)*table(V(P,5) ,20.1m,50u,20.6m,80u,22.9m,160u)
M2 N001 N005 1 1 P m=20m temp=27
R5 N001 P 10
C2 N002 N001 25p
R7 2 N002 25K noiseless
R4 N013 N014 500K noiseless
C12 N013 6 250p
M4 N005 N005 P001 P001 P m=7.143m temp=27
R8 P001 1 500K noiseless
A5 N006 N007 1 1 1 1 N005 1 OTA G=200u Iout=20u en=1.5n+2.2u/freq**.44 Ref=-18.2m Rout=300k Cout=1p Vhigh=0 Vlow=-1.22
S1 1 N005 6 EN S
C10 1 N006 1f
R2 6 N006 500K noiseless
B1 6 N012 I=1m*min(V(1,6),min({Vref+2.1},5.5)) Rpar=1k Cpar=3p
D4 6 5 S
.model P VDMOS(mtriode=.65 Kp=10 Ksubthres=10m Lambda=.08 Vto=-1 Is=0 pchan)
.model P2 VDMOS( Kp=1.5 Ksubthres=10m Vto=-1.19 Is=0 pchan)
.model S SW(Ron=1 Roff=1G Vt=-.5 Vh=-.4)
.model S D(Ron=10 Roff=1G epsilon=1)
.model 1µA D(Ron=400 Roff=400 RevIlimit=1.15u Vrev=0)
.model 20mV D(Ron=1m Roff=1K Vfwd=20m epsilon=20m)
.model X D(Ron=1K Roff=1T epsilon=10m)
.ends ADP7118
