* Copyright © Analog Devices, Inc. 2019.  All rights reserved.
*
.subckt ADP16xa 1 2 3 4 5
M1 4 N003 1 1 P
D1 2 4 S
A1 N005 5 1 1 1 1 N003 1 OTA G=4.55u Iout=3u en=60n enk=20k Vhigh=0 Vlow=-1
C4 1 N003 320p Rpar=53MEG Rser=671k Cpar=0.5p noiseless
M2 2 N003 1 1 P m=333u
R4 N006 N005 350K noiseless
C2 1 N005 100f Rser=100MEG Rpar=3G noiseless
C3 4 2 20p
C6 1 2 20p
A2 3 2 2 2 2 2 N008 2 SCHMITT Vt=800m Vh=400m Trise=1u
A3 1 2 2 2 2 2 N004 2 SCHMITT Vt=1.895 Vh=295m Trise=1u
A4 2 N004 2 N008 2 2 N006 2 AND Cout=100p Rhigh=3Meg Rlow=100k
C5 3 2 1p
G1 1 2 N004 2 50n
G2 1 2 N006 2 525n
.model P VDMOS( pchan Kp=10 Ksubthres=10m Vto=-750m mtriode=600m lambda=50m noiseless)
.model S D(Ron=10 Roff=1G epsilon=1)
.model DIS SW(Roff=300 Ron=1G Vt=0.5 Vh=-0.4)
.ends ADP16xa
*
.subckt ADP16xad 1 2 3 4 5
M1 4 N003 1 1 P
D1 2 4 S
A1 N005 5 1 1 1 1 N003 1 OTA G=4.55u Iout=3u en=60n enk=20k Vhigh=0 Vlow=-1
C4 1 N003 320p Rpar=53MEG Rser=671k Cpar=0.5p noiseless
M2 2 N003 1 1 P m=333u
R4 N006 N005 350K noiseless
C2 1 N005 100f Rser=100MEG Rpar=3G noiseless
C3 4 2 20p
C6 1 2 20p
A2 3 2 2 2 2 2 N008 2 SCHMITT Vt=800m Vh=400m Trise=1u
S1 4 2 N006 2 DIS
A3 1 2 2 2 2 2 N004 2 SCHMITT Vt=1.895 Vh=295m Trise=1u
A4 2 N004 2 N008 2 2 N006 2 AND Cout=100p Rhigh=3Meg Rlow=100k
C5 3 2 1p
G1 1 2 N004 2 50n
G2 1 2 N006 2 525n
.model P VDMOS( pchan Kp=10 Ksubthres=10m Vto=-750m mtriode=600m lambda=50m noiseless)
.model S D(Ron=10 Roff=1G epsilon=1)
.model DIS SW(Roff=300 Ron=1G Vt=0.5 Vh=-0.4)
.ends ADP16xad
*
.subckt ADP16xf 1 2 3 4
M1 4 N003 1 1 P
D1 2 4 S
A1 N005 N006 1 1 1 1 N003 1 OTA G=4.55u Iout=3u en=60n enk=20k Vhigh=0 Vlow=-1
C4 1 N003 320p Rpar=53MEG Rser=671k Cpar=0.5p noiseless
M2 2 N003 1 1 P m=333u
R4 N007 N005 350K noiseless
C2 1 N005 100f Rser=100MEG Rpar=3G noiseless
C3 4 2 20p
C6 1 2 20p
A2 3 2 2 2 2 2 N008 2 SCHMITT Vt=800m Vh=400m Trise=1u
A3 1 2 2 2 2 2 N004 2 SCHMITT Vt=1.895 Vh=295m Trise=1u
A4 2 N004 2 N008 2 2 N007 2 AND Cout=100p Rhigh=3Meg Rlow=100k
C5 3 2 1p
G1 1 2 N004 2 50n
G2 1 2 N007 2 525n
G3 2 N006 4 2 {K}
C7 N006 2 1p Rpar=1k
.model P VDMOS( pchan Kp=10 Ksubthres=10m Vto=-750m mtriode=600m lambda=50m noiseless)
.model S D(Ron=10 Roff=1G epsilon=1)
.model DIS SW(Roff=300 Ron=1G Vt=0.5 Vh=-0.4)
.ends ADP16xf
*
.subckt ADP16xfd 1 2 3 4
M1 4 N003 1 1 P
D1 2 4 S
A1 N005 N006 1 1 1 1 N003 1 OTA G=4.55u Iout=3u en=60n enk=20k Vhigh=0 Vlow=-1
C4 1 N003 320p Rpar=53MEG Rser=671k Cpar=0.5p noiseless
M2 2 N003 1 1 P m=333u
R4 N007 N005 350K noiseless
C2 1 N005 100f Rser=100MEG Rpar=3G noiseless
C3 4 2 20p
C6 1 2 20p
A2 3 2 2 2 2 2 N008 2 SCHMITT Vt=800m Vh=400m Trise=1u
S1 4 2 N007 2 DIS
A3 1 2 2 2 2 2 N004 2 SCHMITT Vt=1.895 Vh=295m Trise=1u
A4 2 N004 2 N008 2 2 N007 2 AND Cout=100p Rhigh=3Meg Rlow=100k
C5 3 2 1p
G1 1 2 N004 2 50n
G2 1 2 N007 2 525n
G3 2 N006 4 2 {K}
C7 N006 2 1p Rpar=1k
.model P VDMOS( pchan Kp=10 Ksubthres=10m Vto=-750m mtriode=600m lambda=50m noiseless)
.model S D(Ron=10 Roff=1G epsilon=1)
.model DIS SW(Roff=300 Ron=1G Vt=0.5 Vh=-0.4)
.ends ADP16xfd
