* Copyright © Analog Devices, Inc. 2019.  All rights reserved.
*
.subckt AD590 1 2
D1 N003 2 X N=2.3
R2 N002 0 T 1
I2 0 N002 .3002m
C1 1 N003 10p
C2 N003 2 10p
D2 2 1 S
D3 N003 1 Y
G1 1 N003 N002 0 1m
.model X D(Eg=1.4 Rs=2.5K)
.model Y D(Ron=1K Roff=1G Vfwd=-.1 epsilon=1
.model S D(Ron=1 Roff=1T epsilon=1)
.model T R(R=1K tc1=0.003331667499583541)
.ends AD590
*
.subckt ADR225 1 2 3
C2 1 2 10p
C20 3 2 10p Rpar=250K
A1 N005 3 1 1 1 1 N006 1 OTA Ref=0 Rclamp=1Meg Vhigh=.5 Vlow=-.5 en=400n enk=10 Rout=400Meg epsilon=1 Iout=1u G=3u
M2 N003 N006 1 1 P temp=27
D1 2 N006 X
A2 1 2 2 2 2 2 N005 2 SCHMITT Vhigh=2.5 Vt=2. Vh=1m Rout=250 Cout=1n
D2 2 3 S
R2 1 N005 10Meg
C3 1 N006 1p Rser=3Meg Cpar=.1p
D3 N003 3 1V
C4 N003 2 10p
.model P VDMOS(Kp=2 Vto=0 Ksubthres=100m pchan)
.model X D(Ron=1 Roff=1T epsilon=.5)
.model S D(Ron=1 Roff=1G epsilon=1)
.model 1V D(Ron=10 Roff=1G Vfwd=.8 epsilon=.1)
.ends ADR225
